US09302989B2
N-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide
N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide (2.0 g, 6.24 mmol) in 80 mL of 1:1 THF:methanol was added to 5% Pd on carbon (wet) (0.500 g) in a 250 mL SS pressure bottle and the mixture was stirred for 38 hours at 30 atm and 25° C. The mixture was filtered through a nylon membrane, concentrated and suspended in ether. Filtration with ether washes provided the title compound.

reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | 6.24 mmol, 2.0 g | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H20N4O
reactant | methanol | CO | CH4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd on carbon | 0.500 g | [Pd] | Pd
product | N-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O
